US06225306B1
(2R,4R)-4-Hydroxy-1-(2-Nitrophenyl) Proline Methyl Ester
The same procedures used in Reference Example 1 were repeated except for using the cis-4-hydroxy-D-proline methyl ester hydrochloride prepared in Reference Example 4 and 1-fluoro-2-nitrobenzene to give the title compound. Yield 97.2%.

reactant | cis-4-hydroxy-D-proline methyl ester hydrochloride | Cl.COC([C@@H]1NC[C@@H](C1)O)=O
reactant | 1-fluoro-2-nitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | (2R,4R)-4-Hydroxy-1-(2-Nitrophenyl) Proline Methyl Ester | Yield 97.2% | COC([C@@H]1N(C[C@@H](C1)O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H14N2O5
